US04686309
β-Dimethylamino-α-methylpropiophenone 2,4,6-triisopropylbenzenesulphonylhydrazone can be prepared as follows: 2,4,6-triisopropylbenzenesulphonylhydrazine (23.8 g) is added to α-methyl-β-dimethylaminopropiophenone hydrochloride (16.3 g) dissolved in methylene chloride (150 cc) and acetic acid (5 cc). The solution is stirred at ambient temperature for 24 hours and is then poured into water (50 cc). The aqueous phase is extracted with methylene chloride (2×50 cc) and then the organic phases are combined, dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure (2.7 kPa) at 40° C. to give a yellow oil which is crystallised in a mixture (120 cc) of ethyl acetate and isopropyl ether (50/50 by volume). In this way β-dimethylamino-α-methylpropiophenone 2,4,6-triisopropylbenzenesulphonylhydrazone hydrochloride (16 g) is obtained in the form of a white solid melting at 147° C.

reactant | β-Dimethylamino-α-methylpropiophenone 2,4,6-triisopropylbenzenesulphonylhydrazone | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN=C(C(CN(C)C)C)C1=CC=CC=C1 | C27H41N3O2S
reactant | 2,4,6-triisopropylbenzenesulphonylhydrazine | 23.8 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN | C15H26N2O2S
reactant | α-methyl-β-dimethylaminopropiophenone hydrochloride | 16.3 g | Cl.CC(C(=O)C1=CC=CC=C1)CN(C)C
reactant | water | 50 cc | O | H2O
solvent | methylene chloride | 150 cc | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 5 cc | C(C)(=O)O | C2H4O2
product | β-dimethylamino-α-methylpropiophenone 2,4,6-triisopropylbenzenesulphonylhydrazone hydrochloride | 16 g | Cl.C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NN=C(C(CN(C)C)C)C1=CC=CC=C1 | InChI=1S/C27H41N3O2S.ClH/c1-18(2)23-15-24(19(3)4)27(25(16-23)20(5)6)33(31,32)29-28-26(21(7)17-30(8)9)22-13-11-10-12-14-22;/h10-16,18-21,29H,17H2,1-9H3;1H
